US04452783
(ii) Acetylsalicyloyl-(DL)-alanyl-(DL)-alanine
Acetylsalicyloyl-(DL)-alanine (2.5 g) was dissolved in dry tetrahydrofuran (15.0 ml) and dry triethylamine (1.36 ml) was added. The reaction mixture was brought to -5° C. and ethyl chloroformate (0.96 ml) was added dropwise over a period of 10 min. (DL)-Alanine (0.89 g) dissolved in aqueous sodium hydroxide (1 M, 10.0 ml) was added. The reaction was allowed to proceed at 0° C. for 6 hrs., and the solvent was then removed at 30° C. under reduced pressure. The residual solution was acidified to pH 2-3 using aqueous hydrochloric acid (3 M). The whole was extracted with ethyl acetate (50.0 ml), and the extract was dried (anhydrous sodium sulphate). The bulk of the ethyl acetate was removed under reduced pressure to leave a small volume of solution.

reactant | Acetylsalicyloyl-(DL)-alanine | 2.5 g | C(C)(=O)N(C(C)C(=O)O)C(C=1C(O)=CC=CC1)=O | C12H13NO5
reactant | triethylamine | 1.36 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.96 ml | ClC(=O)OCC | C3H5ClO2
reactant | (DL)-Alanine | 0.89 g | NC(C)C(=O)O | C3H7NO2
solvent | tetrahydrofuran | 15.0 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1 M, 10.0 ml | [OH-].[Na+]
product | Acetylsalicyloyl-(DL)-alanyl-(DL)-alanine | C(C)(=O)N(C(C)C(=O)NC(C)C(=O)O)C(C=1C(O)=CC=CC1)=O | C15H18N2O6
